US04758578
3-(3-Chlorophenyl)-1,2,4-thiadiazole-5-sulfenamide
A solution of 41 g of 5-mercapto-3-(3-chlorophenyl)-1,2,4-thiadiazole in 602 ml of 5% sodium hydroxide and a solution prepared by diluting 378 ml of 5.25% NaOCl to 602 ml with water were added dropwise simultaneously to 1634 ml of ammonium hydroxide solution while maintaining the mixture at 0° C. with a salt/ice bath. The resulting mixture was stirred for 30 minutes and the solids were collected, washed with water and dried under vacuum (with P2O5) to give 5.4 g of solid, m.p.>150° dec.

reactant | 5-mercapto-3-(3-chlorophenyl)-1,2,4-thiadiazole | 41 g | SC1=NC(=NS1)C1=CC(=CC=C1)Cl | C8H5ClN2S2
reactant | NaOCl | 378 ml | [O-]Cl.[Na+]
reactant | ammonium hydroxide | 1634 ml | [OH-].[NH4+]
solvent | sodium hydroxide | 602 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(3-Chlorophenyl)-1,2,4-thiadiazole-5-sulfenamide | 5.4 g | ClC=1C=C(C=CC1)C1=NSC(=N1)SN | C8H6ClN3S2
